US04025527
N-Cyano-N',N"-bis-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]guanidine
A solution of silver nitrate (3.06 g.) in dimethyl formamide (20 ml.) was added to a solution of N-cyano-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]-S-methyl isothiourea (4.9 g.) in dimethylformamide (30 ml.). The resultant solution was kept at room temperature for 1 hour cooled and filtered to remove silver methylmercaptide, 4-methyl-5-((2-aminoethyl)thioethyl)imidazole (3.07 g.) in dimethyl formamide (10 ml.) was added and this solution was heated overnight on the steam bath. Concentration followed by chromatographic purification of the product on a column of silica gel afforded the title compound (1.2 g.), m.p. 90°-94°C., containing a small amount of water.

reactant | N-cyano-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]-S-methyl isothiourea | 4.9 g | C(#N)NC(SC)=NCCSCC1=C(N=CN1)C | C10H15N5S2
solvent | dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
catalyst | silver nitrate | 3.06 g | [N+](=O)([O-])[O-].[Ag+]
product | N-Cyano-N',N"-bis-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]guanidine | 1.2 g | C(#N)NC(=NCCSCC1=C(N=CN1)C)NCCSCC1=C(N=CN1)C | C16H24N8S2
